US06998497B2
Iron(II) Bis-triflimide
Iron metal (5.0 g, 99.95% purity) lumps were suspended in water (50 mL) and hydrogen bis-triflimide (HNTf2) (10 g) was added. This mixture was heated under reflux for 72 hours. The resultant slurry was cooled, filtered and concentrated on a rotary evaporator to give a pale yellow solution that crystalised on standing. The pale yellow crystals were heated at 150° C. at 1 mmHg to remove the residual water and hydrogen bis-triflimide.

reactant | Iron | 5.0 g | [Fe] | Fe
reactant | HNTf2 | 10 g | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2HF6NO4S2
solvent | water | 50 mL | O | H2O
product | Iron(II) Bis-triflimide | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Fe+2] | InChI=1S/2C2HF6NO4S2.Fe/c2*3-1(4,5)14(10,11)9-15(12,13)2(6,7)8;/h2*9H;/q;;+2
